US07781598B2
3-(4-Chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indole (3.76 kg, 11.8 mol) and potassium carbonate (1.80 kg, 13.0 mol) were suspended in acetonitrile (32.7 kg). Water (0.53 kg) and a solution of ethyl bromoacetate (2.17 kg, 13.0 mol) in acetonitrile (5.75 kg) were added followed by an acetonitrile line rinse (2.97 kg). The mixture was heated at 50° C. for 6 hours then allowed to cool to 20° C. and held at this temperature overnight. Water (35.4 kg) was added to the reaction mixture and stirring continued for 30 minutes at 15° C. The solid product was collected by filtration, washed with acetonitrile (2.95 kg) then dried in a vacuum oven at 40° C. to afford [3-(4-chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indol-1-yl]acetic acid, ethyl ester as a bright yellow solid, 4.33 kg (91%).

reactant | 3-(4-Chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indole | 11.8 mol, 3.76 kg | ClC1=CC=C(C=C1)SC1=C(NC2=CC=CC(=C12)[N+](=O)[O-])C | C15H11ClN2O2S
reactant | potassium carbonate | 13.0 mol, 1.80 kg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 0.53 kg | O | H2O
reactant | ethyl bromoacetate | 13.0 mol, 2.17 kg | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 32.7 kg | C(C)#N | C2H3N
solvent | acetonitrile | 5.75 kg | C(C)#N | C2H3N
product | [3-(4-chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indol-1-yl]acetic acid, ethyl ester | ClC1=CC=C(C=C1)SC1=C(N(C2=CC=CC(=C12)[N+](=O)[O-])CC(=O)OCC)C | C19H17ClN2O4S
